US04659718
In a similar way to that described in Example 30, 7-fluoro-1-methyl-3-(1-methyl-1H-tetrazol-5-yl)-4-quinolone (5 g) was boiled under reflux with pyrrolidine (50 ml) for 20 hours to give 1-methyl-3-(1-methyl-1H-tetrazol-5-yl)-7-pyrrolidino-4-quinolone, m.p. 267°-270° (from industrial methylated spirit:water 5:1).

reactant | 7-fluoro-1-methyl-3-(1-methyl-1H-tetrazol-5-yl)-4-quinolone | 5 g | FC1=CC=C2C(C(=CN(C2=C1)C)C1=NN=NN1C)=O | C12H10FN5O
reactant | pyrrolidine | 50 ml | N1CCCC1 | C4H9N
product | 1-methyl-3-(1-methyl-1H-tetrazol-5-yl)-7-pyrrolidino-4-quinolone | CN1C=C(C(C2=CC=C(C=C12)N1CCCC1)=O)C1=NN=NN1C | C16H18N6O
